### PR TITLE
Add homeomorphism example

### PR DESCRIPTION
**Pull request by stop-cran**
Sample proof, that unit sphere is homeomorphic to a unit interval with glued ends.

TODO:

- [ ] Make CI happy with 8.10, 8.11 and 8.12
- [ ] Possibly move examples to a separate subdirectory.
- [ ] Generalize to n-spheres using suspension.

### CODE REVIEW

File: theories/Topology/AdjunctionSpace.v [hunk 1]
```diff
@@ -0,0 +1,97 @@
+From ZornsLemma Require Import InverseImage Quotients.
+Require Export QuotientTopology.
+
+Lemma Singleton_injective {T : Type} : forall x y : T, Singleton x = Singleton y -> x = y.
+Proof.
+intros.
+assert (In (Singleton x) x) by constructor.
+rewrite H in H0.
+now destruct H0.
+Qed.
```
Comment (Columbus240) [inline theories/Topology/AdjunctionSpace.v]: Move this to ZornsLemma to a suitable file, because it does not depend on topology.
I’m not sure which file would be right, maybe PowersetFacts or a file about finite sets.

File: theories/Topology/AdjunctionSpace.v [hunk 2]
```diff
@@ -0,0 +1,97 @@
...
+
+Section AdjunctionSpace.
+
+Variable X : TopologicalSpace.
+Variable S : Ensemble X.
+
+Definition SpaceAdjunction : relation X := fun x y => x = y \/ In S x /\ In S y.
```
Comment (Columbus240) [inline theories/Topology/AdjunctionSpace.v]:
```suggestion
Definition SpaceAdjunction : relation X := fun x y => x = y \/ (In S x /\ In S y).
```
Could you add parentheses here? Because just from looking at it, I'm not sure how the formula is parsed. Probably `_ \/ (_ /\ _)` is what’s intended?

File: theories/Topology/AdjunctionSpace.v [hunk 3]
```diff
@@ -0,0 +1,97 @@
...
+Proof.
+intros.
+assert (In (Singleton x) x) by constructor.
+rewrite H in H0.
+now destruct H0.
+Qed.
+
+Section AdjunctionSpace.
+
+Variable X : TopologicalSpace.
```
Comment (Columbus240) [inline theories/Topology/AdjunctionSpace.v]:
```suggestion
Context {X : TopologicalSpace}.
```
Then you can remove the `Arguments …` declarations at the end of the file.

File: theories/Topology/Example_S1.v [hunk 4]
```diff
@@ -0,0 +1,1661 @@
...
+Lemma Ensemble_Product_open {X Y : TopologicalSpace} (U : Ensemble X) (V : Ensemble Y) :
+open U -> open V -> @open (@ProductTopology2 X Y) (Ensemble_Product U V).
+Proof.
+intros.
+apply ProductTopology2_basis_is_basis.
+replace (Ensemble_Product U V) with [p: @ProductTopology2 X Y | let (x,y):=p in (In U x /\ In V y)].
+- now constructor.
+- extensionality_ensembles;
+    now destruct x.
+Qed.
```
Comment (Columbus240) [inline theories/Topology/Example_S1.v:553]: I also got this definition lying around... Somewhere in my repo.
The definition we should put into a file in ZornsLemma (create a new file for it) and we could use the lemma as a definition of `ProductTopology2` by saying that all sets `open U -> open V -> Ensemble_Product U V` form a basis of the product topology.

File: theories/Topology/Example_S1.v [hunk 5]
```diff
@@ -0,0 +1,1661 @@
...
+    constructor.
+    destruct H11, H11, H11;
+    apply Rmin_l_r in H11;
+    destruct H11;
+      apply H6 + apply H8;
+      now constructor.
+Qed.
+
+Lemma f_continuous: continuous f.
+Proof.
```
Comment (Columbus240) [inline theories/Topology/Example_S1.v:721]: Wouldn't this be easier to show, if we used that `f` is the composition of continuous functions?

File: theories/Topology/Example_S1.v [hunk 6]
```diff
@@ -0,0 +1,1661 @@
...
+      -- apply Rmult_lt_0_compat; lra.
+      -- replace (2 * PI) with (1 * (2 * PI)) at 2 by lra.
+         apply Rmult_le_compat_r; lra.
+Qed.
+
+Goal homeomorphic S1 ClosedUnitInterval.
+Proof.
+econstructor.
+apply (intro_homeomorphism f f_inv f_continuous f_inv_continuous f_bijection_1 f_bijection_2).
+Qed.
```
Comment (Columbus240) [inline theories/Topology/Example_S1.v]:
```suggestion
Qed.

```
Add a newline at the end of the file. On Unix/Linux this is convention, but some editors don’t do this on their own.

File: theories/Topology/QuotientTopology.v [hunk 7]
```diff
@@ -99,3 +99,20 @@ exists (Im S (quotient_projection R)).
     (quotient_projection_continuous R)
     (quotient_projection_surjective' R)).
 Qed.
+
+Lemma saturated_subset_quotient_projection_open {X : TopologicalSpace} (R : relation (point_set X)) (S : Ensemble X) :
```
Comment (Columbus240) [inline theories/Topology/QuotientTopology.v]:
```suggestion
Lemma saturated_subset_quotient_projection_open {X : TopologicalSpace} (R : relation X) (S : Ensemble X) :
```
Simplifies notation.

**Review by Columbus240 — COMMENTED** [review]
Nice work. Could you extract some general facts you used in `Example_S1.v` to other files?
For example a file collecting auxiliary lemmas about ℝ and its order etc. And the lot of set theoretic lemmas.

~~Generally, I think it might be easier and more understandable to use the exponential function `t |-> exp(it)` or `t |-> exp(i2πt)` and its restriction to the unit interval. I.e. considering ℝ/ℤ~~ Well, considering ℝ/ℤ might be simpler, but defining and using the exponential might be too difficult. Using the `t |-> (cos t, sin t)` as you did, is probably better.

File: theories/Topology/AdjunctionSpace.v (hunk 2 above)
Comment (stop-cran) [reply theories/Topology/AdjunctionSpace.v]: Yes, that's a habit from C-style languages, where `and` operator has higher priority than `or`.

File: theories/Topology/QuotientTopology.v (hunk 7 above)
Comment (stop-cran) [reply theories/Topology/QuotientTopology.v]: Actually we can do it everywhere in the topology library.

Comment (Columbus240) [reply theories/Topology/QuotientTopology.v]: Yeah, I remember doing this change in some of the files and doing it in new stuff, but I think there are some remnants.

**Comment by stop-cran** [comment]
@Columbus240 I like an idea with ℝ/ℤ as unit interval with glued ends. However, my further idea is to generalize this homeomorphism to n+1-sphere being homeomorphic to a suspension of n-sphere, starting from a discrete two-point space as 0-sphere. So unit interval would be needed to define suspension.

**Comment by Columbus240** [comment]
Hmm. I don't think we can re-use the approach of [0,1]/{0,1} being homeomorphic to S¹, when dealing with the suspension of S⁰, because S⁰ ×[0,1] is "two parallel line segments" which then get glued together to form a circle.

Having a fixed definition of the space [0,1] in the library is useful, without doubt. When I formalized the basics of homotopy (in some branch), I also needed to introduce that. We should probably define it in a separate file (maybe in a folder "spaces").

Side note: The approach of using ℝ/ℤ doesn't generalize to spheres in higher dimensions but to tori. (i.e. ℝ^n/ℤ^n is some torus, which is homeomorphic to the n-fold product of S¹)

**Comment by Columbus240** [comment]
Could you create a branch in the common repo (coq-community/topology) for this? Then I could work on it as well.

**Comment by stop-cran** [comment]
Maybe we should consider creating a separate directory for examples - since it would inevitably require supplementary lemmas unrelated to topology, that have a little value outside it. Among real number lemmas above, perhaps, only `sin x < x` is useful, so I submitted it to the standard library - see https://github.com/coq/coq/pull/15599.
